Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ovarian cancer, desensitization
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old young woman with a history of ovarian
endometrioid adenocarcinoma (at least stage IIB) on adjuvant
carboplatin/paclitaxel who presents for her fourth cycle of
carboplatin + paclitaxel desensitization. 

Reports currently feeling well without any complaint. Feeling a
little sleepy after taking diphenhydramuine but otherwise not
having any other complain. 

Patient denies fevers/chills, night sweats, headache, vision
changes, dizziness/lightheadedness, weakness/numbnesss, 
shortness
of breath, cough, hemoptysis, chest pain, palpitations, 
abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (Per OMR, reviewed): 
Ms. ___ was diagnosed at age ___.
An u/s on ___ showed an anteverted uterus at 8.7 x 3.9 x
5.1cm in size with 2 adjacent cysts measuring 11.8 x 4.5 x 4.9cm
with the largest cystic portion measuring 7.1 x 3.8cm in size. A
pelvic MRI in ___ showed an enlarged complex cystic mass
likely arising form the right ovary with 2 enlarged complex 
cysts
measuring 8.5cm and 6.3cm each. There was no other evidence of
metastatic disease.

She underwent surgery on ___. Intraoperative findings 
include
complex bilobed right ovarin mass filled with mucinous cystic
fluid which was ruptured intraoperatively. An attempt was made 
to
perform a cystectomy for the ___ cyst, but there was also 
rupture
of the cyst revealing mucinous material. Frozen showed 
borderline
tumor, so a complete right sided salpingo-oophorectomy was
performed. A small 0.5cm nodule was removed from the left ovary.
She had cul de sac biopsies. The appendix was wnl, and an 
omental
biopsy was obtained. The abdomen was thoroughly irrigated. 

Pathology from the right ovary demonstrated a 
well-differentiated
adenocarcinoma associated with a 7.5cm mucinous borderline 
tumor.
There was no LVSI, or malignancy noted from the
right fallopian tube. The cul-de-sac nodule was consistent with
metastatic mucinous carcinoma. Omental biopsy and pelvic 
washings
were both negative for malignancy.

Prior to initiating chemotherapy, she underwent fertility
preservation with oocyte preservation and egg retrieval.  

She began adjuvant treatment with taxol, ___ on ___. 

___:  Taxol, 175mc/m2, ___, AUC 6
She had myalgias D3-7
Rash developed around day 10;  treated with prednisone x 5 days
with resolution.
___:  Hypersensitivity Reaction to taxol ~ 18cc.  Held
remainder of treatment;  plan to refer to allergy
___  ___ alone, AUC 6.  Allergy referral 
___: C3 ___ AUC6 & Taxol 175 mg/m2 via desens on 11R
___ C4 Carboplatin (AUC 6), Paclitaxel 

PAST MEDICAL HISTORY (Per OMR, reviewed):  

Childhood asthma 
Psoriasis

 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma
 
Physical Exam:
VS on admission: 98.4 PO 107 / 71 89 20 99% RA 
VS on discharge: 98.4 PO 114 / 65 91 2097% RA

GENERAL: Well-appearing young ___ in no distress sitting in bed
comfortably.
HEENT: Anicteric, PERLL, Mucous membranes moist, OP clear.
CARDIAC: Regular rate and rhythm, normal heart sounds, no
murmurs, rubs or gallops.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Non-distended, normal bowel sounds, soft, non-tender, no
guarding, no palpable masses, no organomegaly.
EXT: Warm, well perfused. No lower extremity edema. No erythema
or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

 
Pertinent Results:
None
 
Brief Hospital Course:
___ year-old with stage IIB endometrioid ovarian adenocarcinoma 
s/p resection, who was admitted for her fourth cycle of adjuvant 
carboplatin + paclitaxel with desensitization protocol. She 
tolerated her cycle well. 

#Endometrioid Ovarian Carcinoma: .
#Paclitaxel Allergy
S/p BSO, has received 3 cycles of adjuvant carboplatin / 
paclitaxel. Her initial allergy presented as delayed rash and 
then flushing and upper airway compromise. She has received one 
session of desensitization without complications. She tolerated 
this cycle well. No complications or events reported. 
-Chemotherapy:
*Paclitaxel 175mg/m2, 3 bag desensitization protocol
*Carboplatin AUC6
-Supportive (scheduled and PRN):
*cetirizine, diphenhydramine, famotidine, dexamethasone,
epinephrine, hydrocortisone, ondansetron.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Dexamethasone 4 mg PO Q12H 
3. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.  Dexamethasone 4 mg PO Q12H  
3.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
4.  Ondansetron 8 mg PO Q8H:PRN nausea  
5.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrioid ovarian cancer
Paclitaxel allergy
Encounter for antineoplastic chemotherapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to received your chemotherapy with 
desensitization. You fortunately tolerated it well. 

It was a pleasure to take care of you. 

Your ___ Team
 
Followup Instructions:
___